US07507753B2
N-(2-bromophenyl)-3-(tert-butoxycarbonylamino)propanecarboxamide
To a solution of 3-(tert-butoxycarbonylamino)propionic acid (4.3 g) and pyridine (3.6 ml) in THF (40 ml) were added oxalyl chloride (3.0 ml) and DMF(3 drops) under ice-cooling, and the mixture was stirred at room temperature for 1 hour. To the obtained reaction solution were added o-bromoaniline (2.6 g), triethylamine (6.3 ml) and a solution of 4-dimethylaminopyridine (0.37 g) in acetonitrile (50 ml) under ice-cooling, and the mixture was stirred at room temperature for 20 hours. The reaction mixture was diluted with saturated sodium bicarbonate solution (200 ml) and extracted with ethyl acetate (200 ml) twice. The extracted solutions were combined, washed with saturated brine, dried with magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography to give the title compound as white crystals (0.91 g, 18%).

reactant | 3-(tert-butoxycarbonylamino)propionic acid | 4.3 g | C(C)(C)(C)OC(=O)NCCC(=O)O | C8H15NO4
reactant | pyridine | 3.6 ml | N1=CC=CC=C1 | C5H5N
reactant | oxalyl chloride | 3.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | o-bromoaniline | 2.6 g | BrC1=C(N)C=CC=C1 | C6H6BrN
solvent | THF | 40 ml | C1CCOC1 | C4H8O
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.37 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | triethylamine | 6.3 ml | C(C)N(CC)CC | C6H15N
product | N-(2-bromophenyl)-3-(tert-butoxycarbonylamino)propanecarboxamide | 0.91 g, 18% | BrC1=C(C=CC=C1)NC(=O)CCCNC(=O)OC(C)(C)C | C15H21BrN2O3
